US06326369B1
N-[8-(5,6-Dimethoxy-4,7-dioxoindan-2-yl)octyl]phthalimide
To a mixture of N-[8-(4,5,6,7-tetramethoxyindan-2-yl)octyl]phthalimide (470 mg), 2,6-pyridinedicarboxylic acid (475 mg), acetonitrile (10 ml), and water (5 ml) was dropwise added a solution of CAN (1.56 g) in acetonitrile (1.5 ml) and water (1.5 ml) with cooling with ice. After the reaction mixture was stirred for 15 min, a solution of CAN (520 mg) in water (2.0 ml) was dropwise added with cooling with ice and stirring was continued for additional 15 min. The reaction mixture was diluted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, and dried. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography (hexane to hexane:ethyl acetate=5:1) and then with recrystallization from hexane-ethyl acetate to yield the entitled compound (336 mg) as crystals.

reactant | N-[8-(4,5,6,7-tetramethoxyindan-2-yl)octyl]phthalimide | 470 mg | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)CCCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C29H37NO6
reactant | 2,6-pyridinedicarboxylic acid | 475 mg | N1=C(C=CC=C1C(=O)O)C(=O)O | C7H5NO4
reactant | CAN | 1.56 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | CAN | 520 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
solvent | water | 1.5 ml | O | H2O
solvent | water | 2.0 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 5 ml | O | H2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-[8-(5,6-Dimethoxy-4,7-dioxoindan-2-yl)octyl]phthalimide | 336 mg | COC=1C(C=2CC(CC2C(C1OC)=O)CCCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)=O | C27H31NO6
